US08541404B2
To a solution of 6-Pyridin-3-yl-3,4-dihydro-1H-quinolin-2-one (560 mg, 2.50 mmol) in 5 ml dry DMF was added N-chlorosuccinimide (368 mg, 2.75 mmol) in 5 ml dry DMF over a period 2 h at 65° C. After additional 3 h at 65° C., the mixture was poured into 75 ml ice water and extracted with ethyl acetate (3×50 ml). The combined organic layers were washed with water and brine, dried over MgSO4 and the solvent was evaporated in vacuo. 8-Chloro-6-pyridin-3-yl-3,4-dihydro-1H-quinolin-2-one was obtained after flash chromatography on silica gel (hexanes/ethyl acetate, 3/7, Rf=0.15) and crystallization from acetone/diethylether as colorless needles (225 mg, 0.87 mmol, 35%), mp (acetone/diethylether) 178° C. 1H-NMR (500 MHz, DMSO-d6): δ=2.54 (m, 2H), 3.01 (m, 2H), 7.45 (ddd, 3J=8.0 Hz, 3J=4.8 Hz, 5J=0.8 Hz, 1H), 7.60 (d, 4J=2.0 Hz, 1H), 7.69 (d, 4J=2.0 Hz, 1H), 8.06 (ddd, 3J=8.0 Hz, 4J=2.5 Hz, 4J=1.5 Hz, 1H), 8.53 (dd, 3J=4.8 Hz, 4J=1.5 Hz, 1H), 8.88 (dd, 4J=2.5 Hz, 5J=0.8 Hz, 1H), 9.64 (s, 1H). 13C-NMR (125 MHz, DMSO-d6): δ=25.3, 30.3, 119.7, 123.8, 125.0, 125.6, 127.4, 131.7, 133.7, 133.8, 134.8, 147.3, 152.4, 170.3. MS m/z 258.95 (M+).

reactant | 6-Pyridin-3-yl-3,4-dihydro-1H-quinolin-2-one | 2.50 mmol, 560 mg | N1=CC(=CC=C1)C=1C=C2CCC(NC2=CC1)=O | C14H12N2O
reactant | N-chlorosuccinimide | 2.75 mmol, 368 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 8-Chloro-6-pyridin-3-yl-3,4-dihydro-1H-quinolin-2-one | ClC=1C=C(C=C2CCC(NC12)=O)C=1C=NC=CC1 | C14H11ClN2O
